US07777047B2
7-amino-2-[5-(dimethoxymethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-5-yl pivalate
To a solution of 2-[5-(dimethoxymethyl)-4,5-dihydro-1,3-thiazol-2-yl]-7-nitro-1H-indol-5-yl pivalate (4.32 g) in ethanol (100 mL) were added water (10 mL), calcium chloride (1.13 g) and iron (3.42 g), and the mixture was stirred at 90° C. for 2 hr. The mixture was allowed to cool, and basified with saturated aqueous sodium hydrogencarbonate, and the insoluble substance was filtered off. The filtrate was extracted with ethyl acetate, and the combined organic layers were washed with water and saturated brine, dried (MgSO4), and concentrated. The residue was purified by basic silica gel column chromatography (hexane:ethyl acetate=4:1-1:3) to give the title compound (2.55 g, yield 64%) as a pale-yellow amorphous powder. MS: 392 (MH+).

reactant | 2-[5-(dimethoxymethyl)-4,5-dihydro-1,3-thiazol-2-yl]-7-nitro-1H-indol-5-yl pivalate | 4.32 g | C(C(C)(C)C)(=O)OC=1C=C2C=C(NC2=C(C1)[N+](=O)[O-])C=1SC(CN1)C(OC)OC | C19H23N3O6S
reactant | water | 10 mL | O | H2O
reactant | calcium chloride | 1.13 g | [Cl-].[Ca+2].[Cl-]
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | ethanol | 100 mL | C(C)O | C2H6O
catalyst | iron | 3.42 g | [Fe] | Fe
product | 7-amino-2-[5-(dimethoxymethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-5-yl pivalate | 2.55 g, yield 64% | C(C(C)(C)C)(=O)OC=1C=C2C=C(NC2=C(C1)N)C=1SC(CN1)C(OC)OC | C19H25N3O4S
